US08859544B2
6-[(2-Methylindolizin-3-yl)carbonyl]-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
0.27 ml (3.22 mmol) of a 1N aqueous solution of sodium hydroxide is added, at ambient temperature, to 0.5 g (1.29 mmol) of ethyl 6-[(2-methylindolizin-3-yl)carbonyl]-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate in 9 ml of a mixture of t-butanol and water (1/1). The reaction medium is refluxed for 1 hour, acidified with a 1N aqueous solution of hydrochloric acid at ambient temperature, and then extracted with dichloromethane. The organic phase is washed with water, dried over sodium sulphate, and concentrated under reduced pressure. The residue obtained is rinsed with ether and then dried under reduced pressure at 50° C. 448 mg of a yellow solid are obtained.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl 6-[(2-methylindolizin-3-yl)carbonyl]-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.29 mmol, 0.5 g | CC=1C=C2C=CC=CN2C1C(=O)C=1C=C2C(C(=CN(C2=CC1)C)C(=O)OCC)=O | C23H20N2O4
reactant | t-butanol | C(C)(C)(C)O | C4H10O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 6-[(2-Methylindolizin-3-yl)carbonyl]-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 448 mg | CC=1C=C2C=CC=CN2C1C(=O)C=1C=C2C(C(=CN(C2=CC1)C)C(=O)O)=O | C21H16N2O4
